US07915288B2
n-PrMgCl (4.7 ml of 2M solution in THF, 9.36 mmol) is added to a solution of 1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinoline-4-carbaldehyde (2.48 g, 8.51 mmol) dropwise at −78 C and the mixture is allowed to warm to room temperature. After quenching with saturated NH4Cl, the mixture is extracted with EtOAc. The combined extracts are washed with saturated brine, dried over Na2SO4, and concentrated. The residue is chromatographed on silica gel to give 1.9 g of 1-[1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinolin-4-yl]-butan-1-ol as a white foam.

reactant | n-PrMgCl | 9.36 mmol, 2M, 4.7 ml | C(CC)[Mg]Cl
reactant | 1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinoline-4-carbaldehyde | 8.51 mmol, 2.48 g | COC=1C(=C(C(=CC1)C)C1=NC=C(C2=CC=CC=C12)C=O)C | C19H17NO2
product | 1-[1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinolin-4-yl]-butan-1-ol | 1.9 g | COC=1C(=C(C(=CC1)C)C1=NC=C(C2=CC=CC=C12)C(CCC)O)C | C22H25NO2
